US05073550
A suspension of 373 mg of (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(2-carbamoyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)-thio]methyl]-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in 7 ml of water was treated portionwise while stirring with 91 mg of N-methyl-D-glucamine. The resulting clear solution was lyophilized. There was obtained (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(2-carbamoyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)-thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid N-methyl-D-glucamine salt as a white powder.

reactant | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(2-carbamoyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)-thio]methyl]-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 373 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SC(C(=C(N2C1)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(N)=O)C)=O)=N/OCS(=O)(=O)C2=CC(=C(C=C2)O)O | C27H24N10O10S4
reactant | N-methyl-D-glucamine | 91 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | water | 7 ml | O | H2O
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(2-carbamoyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)-thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid N-methyl-D-glucamine salt | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(N)=O)C)=N/OCS(=O)(=O)C2=CC(=C(C=C2)O)O | InChI=1S/C27H24N10O10S4.C7H17NO5/c1-10-4-16(37-27(30-10)33-21(34-37)20(28)40)48-6-11-7-49-24-18(23(42)36(24)19(11)25(43)44)32-22(41)17(13-8-50-26(29)31-13)35-47-9-51(45,46)12-2-3-14(38)15(39)5-12;1-8-2-4(10)6(12)7(13)5(11)3-9/h2-5,8,18,24,38-39H,6-7,9H2,1H3,(H2,28,40)(H2,29,31)(H,32,41)(H,43,44);4-13H,2-3H2,1H3/b35-17-;/t18-,24-;4-,5+,6+,7+/m10/s1
